US09351974B2
Step c: Synthesis of ethyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-phenylalaninate
A solution of ethyl N-phenylalaninate (9.65 g, 50 mmol) and 2,4-dichloro-5-nitropyrimidine (9.7 g, 50 mmol) in anhydrous dichloromethane (100 mL) was stirred for 5 minutes at rt under nitrogen. The solution was then cooled to 0° C. (Ice bath) followed by addition of imidazole (3.41 g, 50 mmol). The resulting reaction mixture was allowed to warm up to rt in 30 min and further heated at 50° C. for 2 h. The reaction was then cooled to rt, washed with water, dried over sodium sulfate and evaporated to give a crude residue, which was purified by silica gel flash chromatography (eluent: ethyl acetate-hexane mixture (5:95)) to afford desired product (22%). 1HNMR (300 MHz, CDCl3): δ 1.29 (t, J=7.2 Hz, 3H), 1.63 (d, J=7.5 Hz, 3H), 4.18-4.27 (m, 2H), 4.90 (q, J=7.2 Hz, 1H), 7.19 (d, J=6.9 Hz, 2H), 7.26-7.39 (m, 3H) and 8.52 (s, 1H).

reactant | ethyl N-phenylalaninate | 50 mmol, 9.65 g | C1(=CC=CC=C1)N[C@@H](C)C(=O)OCC | C11H15NO2
reactant | 2,4-dichloro-5-nitropyrimidine | 50 mmol, 9.7 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | imidazole | 50 mmol, 3.41 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | ethyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-phenylalaninate | 22% | ClC1=NC=C(C(=N1)N([C@@H](C)C(=O)OCC)C1=CC=CC=C1)[N+](=O)[O-] | C15H15ClN4O4
